US06265575B1
Part B. Methyl 4-(1-Pyrrolidinylmethyl)-3-nitrobenzoate
The title compound was prepared in 23% yield by essentially following the procedures outlined in Example 34, Part A, from methyl 4-bromomethyl-3-nitrobenzoate (Part A, above) and pyrrolidine.

reactant | methyl 4-bromomethyl-3-nitrobenzoate | BrCC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H8BrNO4
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | Methyl 4-(1-Pyrrolidinylmethyl)-3-nitrobenzoate | 23% yield | N1(CCCC1)CC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C13H16N2O4
